US06506901B2
Step D: 1-(2,6-Difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-1-isopropyl-urea
Under anhydrous conditions, a solution of 1-(2,6-difluoro-benzyl)-3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-1-isopropyl-urea (0.32 g, 0.6 mmol), sodium iodide (0.228 g, 1.5 mmol), and trichloromethylsilane (0.143 mL, 1.2 mmol) in acetonitrile (2.5 mL) was stirred at ambient temperature for 15 minutes. The reaction mixture was quenched with water and partitioned with methylene chloride. The organic phase was washed with Na2S2O3 dilute solution and dried (Na2SO4). Removal of solvent afforded the crude product which was used directly in the next step without characterization.

reactant | 1-(2,6-difluoro-benzyl)-3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-1-isopropyl-urea | 0.6 mmol, 0.32 g | FC1=C(CN(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)C(OC)OC)C(C)C)C(=CC=C1)F | C25H33F2N3O5S
reactant | sodium iodide | 1.5 mmol, 0.228 g | [I-].[Na+]
reactant | trichloromethylsilane | 1.2 mmol, 0.143 mL | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 1-(2,6-Difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-1-isopropyl-urea | FC1=C(CN(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)C=O)C(C)C)C(=CC=C1)F | C23H27F2N3O4S
